US04507313
A: 8-chloro-6-(2-chlorophenyl)-N[(dimethylamino)ethylidene]-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide
A mixture of 0.0047 mole 8-chloro-6-(2-chlorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide and 3 ml of dimethyl acetamide dimethyl acetate was heated in an oil bath at a temperature of about 115° C. After cooling the crystals were collected on a glass filter and washed with dimethyl formamide (DMF) and ether.

reactant | 8-chloro-6-(2-chlorophenyl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | 0.0047 mole | ClC=1C=CC2=C(C(=NCC=3N2C=NC3C(=O)N)C3=C(C=CC=C3)Cl)C1 | C18H12Cl2N4O
reactant | dimethyl acetamide dimethyl acetate | 3 ml | CC(C(=O)O)C.CC(=O)N(C)C
product | 8-chloro-6-(2-chlorophenyl)-N[(dimethylamino)ethylidene]-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamide | ClC=1C=CC2=C(C(=NCC=3N2C=NC3C(=O)N=CCN(C)C)C3=C(C=CC=C3)Cl)C1 | C22H19Cl2N5O
